US06235739B1
(1) 3,4-dimethoxybenzylidenemalonic acid diethyl ester
9.13 g (55 mM) of 3,4-Dimethoxybenzaldehyde (veratraldehyde) was heated in 100 ml of benzene together with 8.00 mg (50 mM) of diethyl malonate, 0.29 ml of acetic acid, and 0.74 ml of piperidine in an apparatus equipped with a water separation tube (i.e., Dean Stark tube) until 50 mM water was separated. The benzene solution was washed with water and was dried over anhydrous magnesium sulfate. After being dried, the benzene was evaporated in vacuo to obtain 15.40 g crude product. The crude product obtained here had a sufficient purity even without purification, thus could be used as it was in the following step.

reactant | 3,4-Dimethoxybenzaldehyde | 55 mM, 9.13 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | diethyl malonate | 50 mM, 8.00 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acetic acid | 0.29 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.74 ml | N1CCCCC1 | C5H11N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | 50 mM | O | H2O
product | 3,4-dimethoxybenzylidenemalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CC1=CC(=C(C=C1)OC)OC)=O | C16H20O6
